US05328927
a) Diethyl (3,4-Dichlorobenzyl)acetamidomalonate
Diethyl acetamidomalonate (48.2 g) was dissolved in ethanol (250 ml) containing sodium ethoxide (10.2 g) and stirred at room temperature for 0.5 hours before adding 3,4-dichlorobenzyl bromide and heating at reflux for 3.5 hours. After cooling, the title compound was collected by filtration and dried under reduced pressure(36.73 g).

reactant | Diethyl acetamidomalonate | 48.2 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | sodium ethoxide | 10.2 g | [O-]CC.[Na+]
reactant | 3,4-dichlorobenzyl bromide | ClC=1C=C(CBr)C=CC1Cl | C7H5BrCl2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | Diethyl (3,4-Dichlorobenzyl)acetamidomalonate | ClC=1C=C(CCC(=O)NC(C(=O)OCC)C(=O)OCC)C=CC1Cl | C16H19Cl2NO5
